US07790720B2
A solution of {2-[4-(3-chloropropoxy)phenyl]-4-methyl-1,3-thiazol-5-yl}acetic acid i103 (0.5 g, 1.41 mmol, 1 eq), triethylamine (0.2 ml, 1.41 mmol, 1 eq), and piperidine (0.15 ml, 1.45 mmol, 1.03 eq) in dichloromethane (30 ml) is cooled (ice bath) and treated with 1-hydroxybenzotriazole (38 mg, 0.28 mmol, 0.2 eq) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide (0.271 g, 1.41 mmol, 1 eq). The mixture is stirred at room temperature overnight, then diluted with 70 ml of dichloromethane. The organic layer is washed with water (2×50 ml), brine, dried over magnesium sulfate and filtered. The solvent is removed under reduced pressure to obtain an orange solid. The solid is triturated in acetonitrile, filtered and rinsed with cold diethyl ether to give 0.18 g of 1-({2-[4-(3-chloropropoxy)phenyl]-4-methyl-1,3-thiazol-5-yl}acetyl)piperidine i104 as a yellow solid.

reactant | {2-[4-(3-chloropropoxy)phenyl]-4-methyl-1,3-thiazol-5-yl}acetic acid | ClCCCOC1=CC=C(C=C1)C=1SC(=C(N1)C)CC(=O)O | C15H16ClNO3S
reactant | triethylamine | 1.41 mmol, 0.2 ml, 1 eq | C(C)N(CC)CC | C6H15N
reactant | piperidine | 1.45 mmol, 0.15 ml, 1.03 eq | N1CCCCC1 | C5H11N
reactant | 1-hydroxybenzotriazole | 0.28 mmol, 38 mg, 0.2 eq | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide | 1.41 mmol, 0.271 g, 1 eq | CN(CCCN=C=NCC)C | C8H17N3
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
product | 1-({2-[4-(3-chloropropoxy)phenyl]-4-methyl-1,3-thiazol-5-yl}acetyl)piperidine | 0.18 g, Yield: 39% | ClCCCOC1=CC=C(C=C1)C=1SC(=C(N1)C)CC(=O)N1CCCCC1 | C20H25ClN2O2S
